Conversion of Pspice 7490a decade counters

* ----------------------------------------------------------- 7490A ------
*  Decade Counters
*
*  The TTL Logic Data Book, 1988, TI Pages 2-277 to 2-287
*  bss    2/25/94
*
.SUBCKT 7490A R01 R02 R91 R92 CKA CKB QA QB QC QD
+     optional:  DPWR=$G_DPWR DGND=$G_DGND
+     params:  MNTYMXDLY=0 IO_LEVEL=0

U1 JKFF(1) DPWR DGND
+     NAND9 NAND0 CKA $D_HI $D_HI QA_O $D_NC
+     D0_EFF IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U2 JKFF(1) DPWR DGND
+     $D_HI NANDC CKB QDBAR $D_HI QB_O $D_NC
+     D0_EFF IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U3 JKFF(1) DPWR DGND
+     $D_HI NANDC QB_O $D_HI $D_HI QC_O $D_NC
+     D0_EFF IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U4 JKFF(1) DPWR DGND
+     NAND9 NAND0 CKB ANDQ QD_O QD_O QDBAR
+     D0_EFF IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U5LOG LOGICEXP(6,4) DPWR DGND
+     R01 R02 R91 R92 QB_O QC_O
+     NAND9 NAND0 NANDC ANDQ
+     D0_GATE IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+
+  LOGIC:
+     NAND0 = {~(R01 & R02)}
+     NAND9 = {~(R91 & R92)}
+     NANDC = {NAND0 & NAND9}
+     ANDQ = {QB_O & QC_O}

U6DLY PINDLY(4,0,4) DPWR DGND
+     QA_O QB_O QC_O QD_O
+     CKA CKB NAND9 NAND0
+     QA QB QC QD
+     IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+
+  BOOLEAN:
+     CHA = {CHANGED_HL(CKA,0)}
+     CHB = {CHANGED_HL(CKB,0)}
+     SETTO9 = {CHANGED_HL(NAND9,0)}
+     SETTO0 = {CHANGED_HL(NAND0,0)}
+     SET = {SETTO0 | SETTO9}
+
+  PINDLY:
+     QA = {
+       CASE(
+         SETTO0 & TRN_HL, DELAY(-1,26ns,40ns),
+         SETTO9 & TRN_LH, DELAY(-1,20ns,30ns),
+         CHA & TRN_LH, DELAY(-1,10ns,16ns),
+         CHA & TRN_HL, DELAY(-1,12ns,18ns),
+         DELAY(-1,27ns,41ns))}
+
+     QB = {
+       CASE(
+         SET & TRN_HL, DELAY(-1,26ns,40ns),
+         CHB & TRN_LH, DELAY(-1,10ns,16ns),
+         CHB & TRN_HL, DELAY(-1,14ns,21ns),
+         DELAY(-1,27ns,41ns))}
+
+     QC = {
+       CASE(
+         SET & TRN_HL, DELAY(-1,26ns,40ns),
+         CHB & TRN_LH, DELAY(-1,21ns,32ns),
+         CHB & TRN_HL, DELAY(-1,23ns,35ns),
+         DELAY(-1,27ns,41ns))}
+
+     QD = {
+       CASE(
+         SETTO0 & TRN_HL, DELAY(-1,26ns,40ns),
+         SETTO9 & TRN_LH, DELAY(-1,20ns,30ns),
+         CHB & TRN_LH, DELAY(-1,21ns,32ns),
+         CHB & TRN_HL, DELAY(-1,23ns,35ns),
+         CHA & TRN_LH, DELAY(-1,32ns,48ns),
+         CHA & TRN_HL, DELAY(-1,34ns,50ns),
+         DELAY(-1,35ns,51ns))}

U7CON CONSTRAINT(8) DPWR DGND
+     R01 R02 R91 R92 CKA CKB NAND9 NAND0
+     IO_STD IO_LEVEL={IO_LEVEL}
+
+  FREQ:
+     NODE=CKA
+     MAXFREQ=32MEG
+
+  FREQ:
+     NODE=CKB
+     MAXFREQ=16MEG
+
+  WIDTH:
+     NODE=CKA
+     MIN_HI=15ns
+     MIN_LO=15ns
+
+  WIDTH:
+     NODE=CKB
+     MIN_HI=30ns
+     MIN_LO=30ns
+
+  WIDTH:
+     NODE=R01
+     MIN_HI=15ns
+     WHEN = {NAND9!='0}
+
+  WIDTH:
+     NODE=R02
+     MIN_HI=15ns
+     WHEN = {NAND9!='0}
+
+  WIDTH:
+     NODE=R91
+     MIN_HI=15ns
+     WHEN = {NAND0!='0}
+
+  WIDTH:
+     NODE=R92
+     MIN_HI=15ns
+     WHEN = {NAND0!='0}
+
+  SETUP_HOLD:
+  CLOCK HL = CKA
+  DATA(1) = NAND9
+  SETUPTIME_HI = 25ns
+  MESSAGE = "SETUP ERROR - R91 R92 SETUP < 25ns"
+
+  SETUP_HOLD:
+  CLOCK HL = CKB
+  DATA(1) = NAND9
+  SETUPTIME_HI = 25ns
+  MESSAGE = "SETUP ERROR - R91 R92 SETUP < 25ns"
+
+  SETUP_HOLD:
+  CLOCK HL = CKA
+  DATA(1) = NAND0
+  SETUPTIME_HI = 25ns
+  WHEN = {NAND9!='0}
+  MESSAGE = "SETUP ERROR - R01 R02 SETUP < 25ns"
+
+  SETUP_HOLD:
+  CLOCK HL = CKB
+  DATA(1) = NAND0
+  SETUPTIME_HI = 25ns
+  WHEN = {NAND9!='0}
+  MESSAGE = "SETUP ERROR - R01 R02 SETUP < 25ns"

.ENDS 7490A

* .SUBCKT 7490A R01 R02 R91 R92 CKA CKB QA QB QC QD
* output qa is connected to ckb and clock is applied to cka
* triggered on falling edge of clka
x1 r01 r02 r91 r92 clka qa1 qa1 qb1 qc1 qd1 7490a

* output qd is connected to cka and clock is applied to ckb
* triggered on falling edge of clkb
***x2 r01 r02 r91 r92 od2 clkb oa2 ob2 oc2 od2 7490a
* the outputs are ordered to match the datasheet for the BCD mode
x2 r01 r02 r91 r92 o2 clkb o1 o4 o3 o2 7490a
 
a1 [clka] input_vec1
.model input_vec1 d_source(input_file = "7490a.clk.stim")
a2 [clkb] input_vec1
a3 [r01 r02 r91 r92] input_vec2
.model input_vec2 d_source(input_file = "7490a.control.stim")

.save all
.control
tran 1ns 6us
run
listing r
eprint r01 r02 r91 r92 clka clkb
eprint qd1 qc1 qb1 qa1
eprint o1 o2 o3 o4
* save data to input directory
cd $inputdir 
eprvcd r01 r02 r91 r92 clka clkb qd1 qc1 qb1 qa1 o1 o2 o3 o4 > 7490a.vcd
* plotting the vcd file with GTKWave
if $oscompiled = 1 | $oscompiled = 8  ; MS Windows
  shell start gtkwave 7490a.vcd --script nggtk.tcl
else
  if $oscompiled = 7 ; macOS, manual tweaking required (mark, insert, Zoom Fit)
    shell open -a gtkwave 7490a.vcd
  else ; Linux and others
    shell gtkwave 7490a.vcd --script nggtk.tcl &
  end
end

*plot qd1 qc1 qb1 qa1 digitop
*plot o1 o2 o3 o4 digitop
quit
.endc
.end
